Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Keflex
 
Attending: ___.
 
Chief Complaint:
Gout flare and due dialysis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with PMH of CAD s/p CABG in ___, CHF (EF ___, AF on 
warfarin and ESRF who presented with symptomatic uremia last 
week and a fistula that was not yet matured. He was admitted for 
urgent HD given a BUN >200 and had a tunnelled right subclavian 
line placed. He was discharged on ___ with a plan for his first 
out-patient dialysis session today. Unfortunately, by the 
afternoon after discharge, he noticed some left ankle pain. He 
went to sleep and woke up at midnight in crippling pain in the 
left ankle. He was unable to ambulate on this and went back to 
sleep. At the same time he noted pain in his left wrist and MCPs 
and right base of thumb. His pain was consistent with previous 
gout flares but none had been as widespread. His joints were 
swollen but he noted no heat at the site. He was due to have 
labs taken on ___ but was unable to get to his facility due to 
his pain and resultant decreased mobility. Symptoms progressed 
and by ___ when he was due to have dialysis he tried to get 
out with friends helping him into the car but had to be diverted 
to the ED. He therefore missed HD today. 
.
In the ED, initial VS: 98.4 56 127/60 18 94% on RA
Pt was given Colchicine 1.2mg, Indomethacin 500mg, Morphine 4mg 
IV and Ondansetron 4mg IV. The renal team was contacted with a 
plan for HD on ___ amd patient was admitted to the floor.
.
On arrival to the floor, pt reported significant immprovement in 
symptoms and was essentially pain free when not moving. 
.
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, diarrhea, BRBPR, melena, 
hematochezia, dysuria, hematuria.
 
Past Medical History:
ESRF s/p initiation of HD ___ via tunnnelled line s/p 
right brachio-cephalic fistula (not matured)
Type 2 diabetes with neuropathy
Coronary artery disease s/p CABG ___, most recent EF ___
Hyperlipidemia
Hypertension
Atrial fibrillation s/p cardioversion in ___ on warfarin and 
amiodarone
Colon cancer vs polyp (in NH deemed no need for surgery after 
rpt colonoscopy and they tattooed the area to mark for further 
colonoscopies)
Varicose veins
Osteoarthritis
Cataracts
Gout
Sleep apnea
.
Past Surgical Hx:
Cataract ops
Tonsillectomy
No problems with GA
 
Social History:
___
Family History:
Mother with CAD
Father - died ___ DVT after being caught in escalator at 
___ station
Sibs - None
No history of renal disease, DM or cancer
 
Physical Exam:
VS - Temp 96.9F, BP 125/68, HR 57, R 20, O2-sat 97% RA
GENERAL - well-appearing man c/o joint pain, pain on movvement. 
R brachio-cephalic fistula
HEENT - NC/AT, PERRL 2.5+/2.5+, EOMI, sclerae anicteric, MMM, OP 
clear
NECK - supple, no thyromegaly, no JVD, no carotid bruits
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - HS 1+2 + ESM radiating to carotids + PSM JVP not 
elevated
ABDOMEN - Obbese, soft/NT/ND, no masses or HSM, no 
rebound/guarding. BS present and normal
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
Varicosities L>R LL and varicose eczema bilat. Calves SNT. Mild 
edema to mid shins bilaterally.
Tender ++ left wrist with ___ erythema and minimal heat with 
resultant limitation in wrist felxion and extension to roughly 
30 degrees. Mild swelling left MCPs. Right base of thumb no 
swelling and no pain on moevement.
Tender +++ left ankle with considerable pain on plantar and 
dorsiflexion and tender on palpation of left lateral malleolus. 
He had considerably limited movement at the ankle in all 
movements due to pain.
SKIN - no rashes or lesions but presnet venosu changes on both 
shins.
NEURO - Awake, A&Ox3 GCS ___, CNs II-XII intact with normmal 
visual fields, muscle strength ___ throughout, sensation to 
light touch intact throughout but decreased vibration sensation 
to ankle on L and knee on R, DTRs 2+ and symmetric save 
decreased AJs on R but unable to assess left due to pain. 
cerebellar exam normal. gait not assessed.
 
Pertinent Results:
Admission labs
___ 11:54AM BLOOD WBC-9.5 RBC-3.89* Hgb-10.8* Hct-34.1* 
MCV-88 MCH-27.7 MCHC-31.6 RDW-18.9* Plt ___
___ 11:54AM BLOOD Neuts-83.2* Lymphs-10.3* Monos-4.5 
Eos-1.6 Baso-0.4
___ 11:54AM BLOOD ___ PTT-27.7 ___
___ 11:54AM BLOOD Glucose-173* UreaN-78* Creat-2.7* Na-140 
K-4.2 Cl-102 HCO3-29 AnGap-13
___ 11:54AM BLOOD ALT-179* AST-86* AlkPhos-102 TotBili-0.9
.
Other labs
___ 11:54AM BLOOD UricAcd-5.3
.
Discharge labs

___ 07:45AM BLOOD WBC-8.5 RBC-3.77* Hgb-11.1* Hct-33.8* 
MCV-90 MCH-29.4 MCHC-32.7 RDW-18.5* Plt ___
___ 07:45AM BLOOD ___ PTT-36.9* ___
___ 07:45AM BLOOD Glucose-133* UreaN-89* Creat-2.9* Na-140 
K-4.2 Cl-102 HCO3-28 AnGap-14
___ 07:45AM BLOOD ALT-167* AST-107* AlkPhos-104 TotBili-0.8
___ 07:45AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.___ year old male with a history of CKD stage 5 dialysis 
dependent since ___ after recent admission (d/c ___ and 
recent right AV fistula, CAD with a CABG in ___, current EF 
___, atrial fibrillation status-post cardioversion in ___, 
on warfarin with subtherapeutic INR, bradycardia felt to be due 
to amiodarone which was stopped and deranged LFTs which were 
improving by last discharge. He presented with a gout flare and 
as a result he was unable to attend dialysis. He was continued 
on allopurinol at increased dose of 100mg daily and treated for 
his acute gout flare with a five day course of prednisone. He 
had dialysis on ___. His symptoms improved and he was 
discharged home able to ambulate. His INR was still 
subtherapeutic and his dose was increased for review at the ___ 
___ clinic. Of note, on telemetry during dialysis he 
appeared to have a short episode of AF.
.
# Acute on Chronic Renal Disease: The patient was due to have HD 
on ___ but was incapable due to his acute gout flare. 
Electrolytes were stable ___ and hence there was no need for 
emergent dialysis. He had dialysis on ___ and notably had a 
possible episode of AF in dialysis with no symptoms of this. He 
continued on his ___ regime with next dialysis due 
___. Given his gout flare, his allopurinol dose was increased 
to 100mg qd and renal team agreed with starting a low dose ACEI. 
He was discharged on ___ after his dialysis.
.
# Gout flare: Pt was on renally dosed allopurinol at 100mg 
alternate days. He presented with multifocal gout symptoms with 
pain in the left wrist and left ankle  and by assessment in 
hospital, his pain at the base of the right thumb had resolved. 
He was initially treated with colchicine and indomethacin in the 
ED with symptomatic improvement and this was not continued on 
transfer to the ward. Following initiation of prednisone 40mg, 
his pain improved such that he was able to ambulate although 
still had residual pain in his left wrist on movement. His uric 
acid level was 5.3. He should complete a 5 day course of 
prednisone and will be seen by his PCP ___ ___.
.
# h/o Atrial fibrillation on warfarin s/p cardioversion: 
Amiodarione was stopped as this was felt to be contributing to 
bradycardia/long QT. INR was subtherapeutic at 1.5. Of 
particular note, he had an episode of possible AF while on 
dialysis and reverted back to SR. Given his low INR, we 
increased his warfarin to 5mg on ___ and ___ and is for lab 
review on ___ at ___ clinic.
.
# New deranged LFTs: This was felt likely secondary to 
amiodarone. Statin and amiodarone were stopped on ___. On this 
admission, his LFTs had further improved to ALT 167 AST 107. He 
should be seen as an out-patient by hepatology.
.
# Sinus Bradycardia/Prolonged QTc:  Amiodarone was stopped on 
___ during his previous admission as was 
Carvedilol after an episode of symptomatic bradycardia at HD. He 
was monitored on telemetry and his blood pressure was never 
compromised. He awaits cardiology review as per previous 
discharge summary.
.
Otherwise, no changes were made to medication regimen.
 
Medications on Admission:
1. allopurinol ___ mg Tablet Sig: One (1) Tablet PO EVERY OTHER
DAY (Every Other Day).
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable
PO DAILY (Daily).
3. insulin NPH & regular human 100 unit/mL (70-30) Cartridge
Sig: as per blood glucose units Subcutaneous twice a day:
Continue reduced dose of NPH 8 units twice daily and increase
this to home dose as per your PCP.
4. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap
PO DAILY (Daily).
Disp:*90 Cap(s)* Refills:*2*
5. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q8H (every 8 hours)
as needed for pain for 5 days.
Disp:*8 Tablet(s)* Refills:*0*
6. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4
___.
 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
2. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. insulin NPH & regular human 100 unit/mL (70-30) Cartridge 
Sig: as per blood glucose  Subcutaneous twice a day: NPH 8 units 
twice daily.  
6. lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*90 Tablet(s)* Refills:*2*
7. prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily) 
for 4 days.
Disp:*8 Tablet(s)* Refills:*0*
8. warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___ for 2 days: To take 5mg for ___ and ___ and then to be 
reviewed by ___ clinic.
Disp:*2 Tablet(s)* Refills:*0*
9. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*90 Tablet(s)* Refills:*2*
10. Outpatient Lab Work
Please check INR on ___ and ___ to ___ 
clinic
11. Nephrocaps 1 mg Capsule Sig: One (1) Cap PO DAILY (Daily).
Disp:*90 Cap(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Acute gout flare
End-stage renal failure on dialysis
Bradycardia likely secondary to medications
Long QT on electrocardiogram
Deranged liver function tests (likely drug effect) improving
.
Secondary diagnoses:
Type 2 diabetes mellitus with neuropathy
Coronary artery disease s/p Coronary artery bypass grafting
Hyperlipidemia
Hypertension
Atrial fibrillation s/p successful cardioversion 
s/p colonic polyp resection
Varicose veins
Osteoarthritis
Cataracts
Gout 
Sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure looking after you during your stay at the 
___. You presented with 
increasing pain in your left wrist and ankle after your recent 
discharge from hospital. You were unable to walk due to the pain 
and subsequently were unable to attend your dialysis session on 
___. This was felt to be gout and in the emergency department, 
they gave you anti-inflammatory agents and colchicine which 
imprpoved your symptoms. You felt much better by ___ and were 
able to walk. You had residual tenderness in your ankle and 
wrist and you were started on a steroid called prednisone which 
will reduce the inflammation caused by your gout. You should 
complete 5 days total of the prednisone. You had dialysis on 
___ and were assessed and deemed fit to go home. You next 
dialysis will be ___. Your INR was low at 1.5 on ___ and we 
incrased your warfarin dose temporarily to 5mg which you should 
take tonight and tomorrow and have your INR rechecked on ___ 
and your warfarin dosed accordingly by the ___ 
clinic. We doiscussed with the renal team and increased your 
allopurinol dose to 100mg daily. We also started lisinopril to 
help with your heart failure. You continued to have a low pulse 
and you should ensure you have an appointment with your 
cardiologist soon to review this - we are still holding your 
carvedilol. You were continued on the half dose of your insulin 
and this should also be reviewed by your PCP. You have an 
appointment to see your PCP ___ ___. You should also be seen, 
as previously, by a gastroenterologist to investigate your 
abnormal liver function tests and your PCP ___ arrange this.
.
Medication changes:
We increased allopurinol to 100mg daily
We started lisinopril at 2.5mg daily
We started oral prednisone which you should continue for 4 more 
days (to commplete 5 days total)
We increased warfarin to 5mg for ___ and ___ and you should 
have your INR rechecked on ___ and wrafrin dosed by ___ 
___ clinic
We started nephrocaps
.
Patieny instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___